US08580841B2
Step A: Preparation of 3-Bromo-4-(trifluoromethoxy)benzoic Acid.
4-(Trifluoromethoxy)benzoic acid (2 g, 9.70 mmol) and iron(III) chloride (1.574 g, 9.70 mmol) were suspended in nitromethane (20 mL). To this mixture was added bromine (0.497 mL, 9.70 mmol) at 0° C. The solution was heated under microwave irradiation at 110° C. for 2 h. The reaction mixture was added to cold water (100 mL) and extracted with ethylacetate (2×100 mL). The organic phase was washed with an aqueous solution of sodium thiosulfate pentahydrate and brine. The organic layer was concentrated and the residue was purified by HPLC to give the title compound as a white solid (1.5 g). LCMS m/z=287.0 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 7.67 (d, 1H), 8.06 (d, 1H), 8.29 (s, 1H), 13.47 (s, 1H).

reactant | 4-(Trifluoromethoxy)benzoic acid | 9.70 mmol, 2 g | FC(OC1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O3
reactant | bromine | 9.70 mmol, 0.497 mL | BrBr | Br2
reactant | water | 100 mL | O | H2O
solvent | nitromethane | 20 mL | [N+](=O)([O-])C | CH3NO2
catalyst | iron(III) chloride | 9.70 mmol, 1.574 g | [Fe](Cl)(Cl)Cl
product | 3-Bromo-4-(trifluoromethoxy)benzoic Acid | 1.5 g | BrC=1C=C(C(=O)O)C=CC1OC(F)(F)F | C8H4BrF3O3
